US04038414
Analogously to the description in Example 2, 2.5 g (0.01 mol) of 1-[p-(2-ethoxycarbonylaminovinyl)-phenoxy]-2,3-epoxy-propane, on reaction with 1.0 ml (0.01 mol) of tert.-butylamine in 50 ml of isopropanol, yield 1-[p-(2-carbethoxyaminovinyl)-phenoxy]-2-hydroxy-3-tertiary-butylaminopropane as an oil. Its N-cyclohexyl-sulphamate, prepared in acetone, shows a melting point of 99°-100° C. (from ether).

reactant | 1-[p-(2-ethoxycarbonylaminovinyl)-phenoxy]-2,3-epoxy-propane | 0.01 mol, 2.5 g | C(C)OC(=O)NC=CC1=CC=C(OCC2CO2)C=C1 | C14H17NO4
reactant | tert.-butylamine | 0.01 mol, 1.0 ml | C(C)(C)(C)N | C4H11N
solvent | isopropanol | 50 ml | C(C)(C)O | C3H8O
product | 1-[p-(2-carbethoxyaminovinyl)-phenoxy]-2-hydroxy-3-tertiary-butylaminopropane | C(=O)(OCC)NC=CC1=CC=C(OCC(CNC(C)(C)C)O)C=C1 | C18H28N2O4
